US08293923B2
Step 4: 1-cyclohexyl-5-(piperidin-1-ylmethyl)-1H-benzo[d]imidazol-2-amine
N1-cyclohexyl-4-(piperidin-1-ylmethyl)benzene-1,2-diamine from step3 in methanol (200 mL) was added to a mixture of 5 M cyanogen bromide in acetonitrile (3.2 mL) and water (100 mL) dropwise over 1 hr with stirring. After 4.5 hr total reaction time, the mixture was evaporated to dryness. The residue was purified by preparative HPLC chromatography to yield 2.23 g of the title compound as the bis-TFA salt.

reactant | N1-cyclohexyl-4-(piperidin-1-ylmethyl)benzene-1,2-diamine | C1(CCCCC1)NC=1C(=CC(=CC1)CN1CCCCC1)N | C18H29N3
reactant | cyanogen bromide | 5 M | N#CBr | CBrN
solvent | methanol | 200 mL | CO | CH4O
solvent | acetonitrile | 3.2 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
product | 1-cyclohexyl-5-(piperidin-1-ylmethyl)-1H-benzo[d]imidazol-2-amine | 2.23 g | C1(CCCCC1)N1C(=NC2=C1C=CC(=C2)CN2CCCCC2)N | C19H28N4
